data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_285228_1,[C:1]([C:4]([N:3](/[C:5]([C:2]([H:16])([H:17])[H:18])=[C:7](/[N:6]([H:10])[H:11])[H:12])[H:9])=[O:8])([H:13])([H:14])[H:15]>>[C:1]([C:4]([C@:7](/[C:5]([C:2]([H:16])([H:17])[H:18])=[N:3]\[H:9])([N:6]([H:10])[H:11])[H:12])=[O:8])([H:13])([H:14])[H:15],51.65454499999157
MR_333004_1,[C:1]1([C:4]([H:18])([H:19])[H:20])([H:10])[C:6]([N:5]([C:3]([H:15])([H:16])[H:17])[H:9])([O:7][C:2]([H:12])([H:13])[H:14])[N:8]1[H:11]>>[C:1]([C:4]([H:18])([H:19])[H:20])([N:5]([C:3]([H:15])([H:16])[H:17])[H:9])(/[C:6]([O:7][C:2]([H:12])([H:13])[H:14])=[N:8]\[H:11])[H:10],63.71258500000948
MR_36745_0,[C:1](/[C:2]([N:3]([H:5])[H:6])=[N:4]/[H:7])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([N:3]([H:5])[H:6])[N:4]([H:7])[H:10])([H:8])[H:9],63.043042500005626
MR_524414_0,[C:1]([C:2]([C:4]([C:3]([H:17])([H:18])[H:19])=[C:8]([H:20])[H:21])([H:15])[H:16])([N:5]([H:9])[H:10])([N:6]([H:11])[H:12])[N:7]([H:13])[H:14]>>[C:1]1([N:5]([H:9])[H:10])([N:6]([H:11])[H:12])[C:2]([H:15])([H:16])[C@@:4]1([C:3]([H:17])([H:18])[H:19])[C:8]([N:7]([H:13])[H:14])([H:20])[H:21],64.78561000001122
MR_357717_0,[C@@:1]([C:2]([O:7][H:9])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])([N:4]([N:5]([H:11])[H:12])[O:6][H:8])[H:10]>>[C@:1]([C:3]([H:15])([H:16])[H:17])([N:4]([C:2]([O:7][H:9])([H:13])[H:14])[N:5]([H:11])[H:12])([O:6][H:8])[H:10],70.02774500004506
MR_69343_0,[C:1]([C:2]([O:8][H:9])([H:10])[H:11])([C:5]([H:18])([H:20])[H:21])([C:6]([H:19])([H:22])[H:23])[N:7]([C:3]([H:13])([H:14])[H:15])[C:4]([H:12])([H:16])[H:17]>>[C:1]([C:2]([N:7]([C:3]([H:13])([H:14])[H:15])[C:4]([H:12])([H:16])[H:17])([H:10])[H:11])([C:5]([H:18])([H:20])[H:21])([C:6]([H:19])([H:22])[H:23])[O:8][H:9],70.27309750003198
MR_221838_1,[C:1]1([C:3]([H:18])([H:19])[H:20])([H:10])[N:4]([C:2]([H:15])([H:16])[H:17])[C:5]1([N:6]([H:11])[H:12])[O:9]/[C:7](=[N:8]/[H:13])[H:14]>>[C:1]([C:3]([H:18])([H:19])[H:20])([N:4]([C:2]([H:15])([H:16])[H:17])/[C:7](=[N:8]/[H:13])[H:14])([C:5]([N:6]([H:11])[H:12])=[O:9])[H:10],46.82405000002419
MR_236238_0,[C:1](/[N:6]=[N:5]/[N:2]([C:3]([O:4][H:8])=[O:7])[H:9])([H:10])([H:11])[H:12]>>[C:1]([N:6]([C:3]([O:4][H:8])=[O:7])/[N:5]=[N:2]\[H:9])([H:10])([H:11])[H:12],41.14517499998726
MR_127786_0,[C:1]([n:2]1[c:5]([H:10])[c:3]([N:4]([H:8])[H:9])[c:6]([H:11])[n:7]1)([H:12])([H:13])[H:14]>>[C:1](/[N:2]=[C:5](/[C@:3]1([N:4]([H:8])[H:9])[C:6]([H:11])[N:7]1)[H:10])([H:12])([H:13])[H:14],65.97597750000205
MR_300969_0,[C@@:1]([C@:2]([C:3]([H:13])([H:14])[H:15])([O:6][H:8])[H:10])([N:4]([H:11])[H:12])([O:5][H:7])[H:9]>>[C@:1]([C@@:2]([C:3]([H:13])([H:14])[H:15])([O:5][H:7])[H:10])([N:4]([H:11])[H:12])([O:6][H:8])[H:9],71.06562999999284
MR_216477_1,[C@@:1](/[C:3]([N:4]([H:11])[H:12])=[N:8]/[C:2]([H:14])([H:15])[H:16])([C:5](=[C:6]([H:17])[H:18])[H:13])([O:7][H:9])[H:10]>>[C:1](=[C:3](\[N:4]([H:11])[H:12])[N:8]([C:2]([H:14])([H:15])[H:16])[C:5](=[C:6]([H:17])[H:18])[H:13])(\[O:7][H:9])[H:10],66.24015500001278
MR_583119_1,[C:1]([C:2](/[C:4]([N:5]([H:12])[H:13])=[C:7](/[C:3]([H:18])([H:19])[H:20])[H:17])([H:15])[H:16])([C:6](=[O:9])[H:14])([O:8][H:10])[H:11]>>[C:1]1([O:8][H:10])([H:11])[C:2]([H:15])([H:16])[C:4]1([N:5]([H:12])[H:13])[C:7]([C:3]([H:18])([H:19])[H:20])([C:6](=[O:9])[H:14])[H:17],53.42095750002613
MR_482214_1,[C:1]([C:3](=[O:8])[H:13])(/[C:4]([C:2]([O:5][H:9])=[O:7])=[N:6]\[H:10])([H:11])[H:12]>>[C:1]1([H:11])([H:12])[C:3](=[O:8])[O:7][C:2]([O:5][H:9])([H:13])/[C:4]1=[N:6]/[H:10],67.60496750002687
MR_75564_0,[C:1]([C:3]([C:2]([H:11])([H:12])[H:13])=[O:6])([O:5][N:4]([H:7])[H:8])([H:9])[H:10]>>[C:1]1([H:9])([H:10])[C:3]([C:2]([H:11])([H:12])[H:13])([O:5][N:4]([H:7])[H:8])[O:6]1,71.11583000000877
MR_447354_1,[C:1]([C:3](/[C:2]([N:5]([H:11])[H:12])=[N:7]/[H:13])=[N:8]/[H:14])([O:6][N:4]([H:9])[H:10])([H:15])[H:16]>>[C:1](/[C:2]([N:5]([H:11])[H:12])=[N:7]/[H:13])(/[C:3]([O:6][N:4]([H:9])[H:10])=[N:8]\[H:14])([H:15])[H:16],63.03488499997272
MR_235228_0,[C:1]([N:2](/[C:6](=[N:8]\[H:14])[H:17])[H:9])(/[C:3]([N:4]([H:10])[H:11])=[C:7](/[N:5]([H:12])[H:13])[H:18])([H:15])[H:16]>>[C:1]1([H:15])([H:16])[N:2]([H:9])[C:3]1([N:4]([H:10])[H:11])[C:7]([N:5]([H:12])[H:13])(/[C:6](=[N:8]\[H:14])[H:17])[H:18],66.85071250000505
MR_432803_1,[C:1]1([H:12])([H:13])[N:3]([N:5]([H:9])[H:10])[N:6]([O:8][C:2]([H:14])([H:15])[H:16])/[C:4]1=[N:7]\[H:11]>>[C:1]([N:3]([C:2]([H:14])([H:15])[H:16])[N:5]([H:9])[H:10])(/[C:4]([N:6]=[O:8])=[N:7]/[H:11])([H:12])[H:13],52.4960225000072
MR_368930_0,[C@@:1]12([C:2]([H:11])([H:12])[H:13])[N:5]([H:9])[C@:7]1([H:10])[C:6]([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[O:8]2>>[C:1]1([C:2]([H:11])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])[N:5]([H:9])[C:7]([H:10])=[C:6]([C:4]([H:17])([H:18])[H:19])[O:8]1,42.044382499964144
MR_674000_0,[C:1]([C:2](=[C:4](\[O:6][H:8])[H:11])/[N:7]=[C:5](\[N:3]([H:9])[H:10])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:2]1=[N:7][C:5]([N:3]([H:9])[H:10])([H:12])[C:4]1([O:6][H:8])[H:11])([H:13])([H:14])[H:15],46.55736250001979
